* First-order non-inverting SC LP Filter
XOA1 0 in1 out1 in2 out2 SOPAMPG Av_val={A}
XSC2 0 in in2 0 SC C_val={C2} fs_val={fck} DT_val={DT}
XSC1 out1 in1 out2 in2 SC C_val={C} fs_val={fck} DT_val={DT}
XSC3 0 0 out2 in2 SC C_val={C3} fs_val={fck} DT_val={DT}
Vin in 0 DC=0 AC=1

.model delay s_xfer (
+ gain = 1.0
+ int_ic = [0 0 0] 
+ num_coeff = [{-DT^5} {30*DT^4} {-420*DT^3} {3360*DT^2} {-15120*DT} 30240]
+ den_coeff = [{DT^5} {30*DT^4} {420*DT^3} {3360*DT^2} {15120*DT} 30240] )

.subckt SC 1p1 2p1 1p2 2p2 C_val=1p fs_val=1MEG DT_val=0.5
.param Req={1/(fs_val*C_val)} Gmeq={1/Req}
R1 1p1 2p1 {Req}
E1 3p1 0 1p1 2p1 1
A1 3p1 4p1 delay
Rdum1 4p1 0 1
G1 2p1 1p1 4p2 0 {Gmeq}
R2 1p2 2p2 {Req}
E2 3p2 0 1p2 2p2 1
A2 3p2 4p2 delay
Rdum2 4p2 0 1
G2 2p2 1p2 4p1 0 {Gmeq}
.ends SC

.subckt SOPAMPG in+ in-p1 outp1 in-p2 outp2 Av_val=1e5
E1 outp1 0 in+ in-p1 {Av_val}
Ro1 outp1 0 1G
E2 outp2 0 in+ in-p2 {Av_val}
Ro2 outp2 0 1G
.ends SOPAMPG


